US07964612B2
Step ii: 2-[(6-methyl-pyridin-2-yl)-hydrazono]-cyclopentanecarboxylic acid ethyl ester.
A solution of ethyl 2-oxocyclopentanecarboxylate (6.34 g, 5.88 mL) and (6-methyl-pyridin-2-yl)-hydrazine (5 g) in ethanol (100 mL) was heated to 80° C. under an atmosphere of nitrogen for about 19 hours. The reaction mixture was cooled to room temperature and the solvent removed in vacuo to provide a crude material (7.72 g), which was directly taken to the next reaction.

reactant | ethyl 2-oxocyclopentanecarboxylate | 5.88 mL, 6.34 g | O=C1C(CCC1)C(=O)OCC | C8H12O3
reactant | (6-methyl-pyridin-2-yl)-hydrazine | 5 g | CC1=CC=CC(=N1)NN | C6H9N3
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2-[(6-methyl-pyridin-2-yl)-hydrazono]-cyclopentanecarboxylic acid ethyl ester | 7.72 g | C(C)OC(=O)C1C(CCC1)=NNC1=NC(=CC=C1)C | C14H19N3O2
